US05071836
1f) Ac-D-Nal(2)-D-Phe-D-Phe-Ser-OH
10 g of Ac-D-Nal(2)-D-Phe-D-Phe-Ser(tBu)-OtBu are dissolved in a mixture of 40 ml of 90% strength aqueous trifluoroacetic acid and 1.6 ml of 1,2-dimercaptoethane. The mixture is left to stand at room temperature for one hour and is concentrated. The residue is triturated with water and dried under high vacuum.

reactant | Ac-D-Nal(2)-D-Phe-D-Phe-Ser(tBu)-OtBu | 10 g | N([C@H](CC1=CC=C2C=CC=CC2=C1)C(=O)N[C@H](CC1=CC=CC=C1)C(=O)N[C@H](CC1=CC=CC=C1)C(=O)N[C@@H](COC(C)(C)C)C(=O)OC(C)(C)C)C(=O)C | C44H54N4O7
solvent | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | 1,2-dimercaptoethane | 1.6 ml | SCCS | C2H6S2
product | Ac-D-Nal(2)-D-Phe-D-Phe-Ser-OH | N([C@H](CC1=CC=C2C=CC=CC2=C1)C(=O)N[C@H](CC1=CC=CC=C1)C(=O)N[C@H](CC1=CC=CC=C1)C(=O)N[C@@H](CO)C(=O)O)C(=O)C | C36H38N4O7
